US08669234B2
2-Amino-1-(4-bromo-phenyl)-ethanone HCl salt (664 mg, 2.65 mmol) was dissolved in DMF (10 mL) and to this solution was added 4-Cyano-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester crude from the previous step, diisopropyl ethylamine (0.93 mL, 5.3 mmol), followed by HATU (1 g, 2.65 mmol). Reaction mixture was stirred at 0° C. for 30 minutes. The reaction mixture was dissolved in ethyl acetate and washed with dilute sodium bicarbonate solution. The organic layer was dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexane) to give 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester (1.05 g, yield 91%). LCMS-ESI−: calc'd for C19H22BrN3O4: 435.08. Found: 458.0 (M+Na+).

reactant | 2-Amino-1-(4-bromo-phenyl)-ethanone HCl salt | 2.65 mmol, 664 mg | Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | 4-Cyano-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C(=O)O | C11H16N2O4
reactant | diisopropyl ethylamine | 5.3 mmol, 0.93 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 2.65 mmol, 1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.05 g, yield 91% | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C19H22BrN3O4
